US05278163
Synthesis of 5-chloro-2-(cyclohexylmethyl)-3(2H)-pyridazinone
To 10.5 g of 2- (cyclohexylmethyl)-5-hydroxy-3(2H)-pyridazinone was added 25 ml of phosphorus oxychloride and this mixture was heated for 4 hours at 85° C. After reaction, the excess phosphorus oxychloride was distilled off under reduced pressure. The residual solution was poured into water and to this solution was added aqueous sodium hydroxide solution to be alkalified and the separated solid was extracted with benzene. The benzene layer was washed with water, dried over anhydrous sodium sulfate and filtered off with silica gel. Benzene was distilled off under reduced pressure to obtain 6.4 g of the intended compound.

reactant | 2- (cyclohexylmethyl)-5-hydroxy-3(2H)-pyridazinone | 10.5 g | C1(CCCCC1)CN1N=CC(=CC1=O)O | C11H16N2O2
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-2-(cyclohexylmethyl)-3(2H)-pyridazinone | 6.4 g | ClC1=CC(N(N=C1)CC1CCCCC1)=O | C11H15ClN2O
